US08106091B2
Stage 2: Cyclopentyl N-(tert-butoxycarbonyl)-5-{4-[4-carbamoyl-5-(carbamoylamino)-2-thienyl]phenyl}-L-norvalinate
Hydrogen gas was bubbled through a suspension of Wilkinson's catalyst (767 mg, 0.829 mmol) in IPA (10 ml) and toluene (5 ml). After 5 minutes, a solution of cyclopentyl(2S,4E)-2-[(tert-butoxycarbonyl)amino]-5-{4-[4-carbamoyl-5-(carbamoylamino)-2-thienyl]phenyl}pent-4-enoate (300 mg, 0.553 mmol) in IPA (10 ml) was added. The mixture was kept under an atmosphere of hydrogen and placed in a preheated oil bath at 80° C. After 4 hrs the reaction was judged to be complete by LC-MS. The mixture was filtered whilst still hot and the filtrate evaporated in vacuo. The residue was subjected to column chromatography eluting with 4% MeOH in DCM. Yield=120 mg, 0.198 mmol, 36% yield. LCMS purity 90%: m/z 543 [M−H]+.

reactant | Hydrogen | [H][H] | H2
reactant | cyclopentyl(2S,4E)-2-[(tert-butoxycarbonyl)amino]-5-{4-[4-carbamoyl-5-(carbamoylamino)-2-thienyl]phenyl}pent-4-enoate | 0.553 mmol, 300 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC1CCCC1)C\C=C\C1=CC=C(C=C1)C=1SC(=C(C1)C(N)=O)NC(N)=O | C27H34N4O6S
catalyst | Wilkinson's catalyst | 0.829 mmol, 767 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Cl-].[Rh]
solvent | IPA | 10 ml | CC(C)O | C3H8O
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | IPA | 10 ml | CC(C)O | C3H8O
product | Cyclopentyl N-(tert-butoxycarbonyl)-5-{4-[4-carbamoyl-5-(carbamoylamino)-2-thienyl]phenyl}-L-norvalinate | 36% yield | C(C)(C)(C)OC(=O)N[C@@H](CCCC1=CC=C(C=C1)C=1SC(=C(C1)C(N)=O)NC(N)=O)C(=O)OC1CCCC1 | C27H36N4O6S
